US05240957
(S)-N-[(1-Ethyl-2-pyrrolidinyl)methyl]-3-bromo-2-hexadecanoyl-5,6-dimethoxybenzamide (Method I)
To a solution of (S)-N-[(1-ethyl-2-pyrrolidinyl)methyl]-3-bromo-2-hydroxy-5,6-dimethoxybenzamide mesylate (0.48 g, 1 mmol) in 10 ml of trifluoroacetic acid was added palmitoyl chloride (0.55 ml, 2 mmol). The reaction mixture was stirred at ambient temperature over molecular sieves for 20 h. After evaporation of the solvent in vacuo ether was added to the residue and filtered. The filtrate was washed several times with a saturated KHCO3 solution and dried (MgSO4). After evaporation of the solvent in vacuo the resulting oil crystallized on cooling. Yield 0.42 g (67%). M.p. 46°-48° C. Rf value is 0.21 for title compound and 0.32 for starting compound (SiO2, TLC-plates, 20% MeOH in i-Pr2O as eluent).

reactant | (S)-N-[(1-ethyl-2-pyrrolidinyl)methyl]-3-bromo-2-hydroxy-5,6-dimethoxybenzamide mesylate | 1 mmol, 0.48 g | S(C)(=O)(=O)O.C(C)N1[C@@H](CCC1)CNC(C1=C(C(=CC(=C1OC)OC)Br)O)=O
reactant | palmitoyl chloride | 2 mmol, 0.55 ml | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-N-[(1-Ethyl-2-pyrrolidinyl)methyl]-3-bromo-2-hexadecanoyl-5,6-dimethoxybenzamide | C(C)N1[C@@H](CCC1)CNC(C1=C(C(=CC(=C1OC)OC)Br)C(CCCCCCCCCCCCCCC)=O)=O | C32H53BrN2O4
